US06562846B2
7-[4,5-Bis-(4-fluoro-phenyl)-2-methyl-imidazol-1-yl]-heptanoic acid:
(Scheme 1, (C)) To a solution of 7-[4,5-Bis-(4-fluoro-phenyl)-2-methyl-imidazol-1-yl]-heptanoic acid ethyl ester (1.9 g, 4.4 mmol) in EtOH (10 mL) was added NaOH (10 N, 2 mL, 20 mmol). The resulting mixture was stirred at rt for 1 hour, diluted with EtOAc (100 mL), washed by HCl (0.5 N), and then was dried over MgSO4. After filtration and concentration in vacuo, the residue was purified by flash chromatography (SiO2: MeOH/CH2Cl2). This compound was obtained as a white solid in HCl salt form (1.9 g, 4.3 mmol, 98% yield): 1H NMR (DMSO): δ1.15 (m, 4H), 1.37 (t, 2H), 1.47 (t, 2H), 2.13 (t, 2H), 2.73 (s, 3H), 4.03 (t, 2H), 7.35 (t,2H), 7.45 (m, 4H), 7.57 (m, 2H), 12.1 (b, 1H).

reactant | 7-[4,5-Bis-(4-fluoro-phenyl)-2-methyl-imidazol-1-yl]-heptanoic acid ethyl ester | 4.4 mmol, 1.9 g | C(C)OC(CCCCCCN1C(=NC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C)=O | C25H28F2N2O2
reactant | NaOH | 20 mmol, 10 N, 2 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 7-[4,5-Bis-(4-fluoro-phenyl)-2-methyl-imidazol-1-yl]-heptanoic acid | 98% yield | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)CCCCCCC(=O)O)C | C23H24F2N2O2
